US08476287B2
<Step 1> Synthesis of [4-[2-chloro-4-(Trifluoromethyl)Phenoxy]phenyl]boronic Acid
A solution of 2-chloro-1-fluoro-4-(trifluoromethyl)benzene (0.95 g), (4-hydroxyphenyl)boronic acid (0.66 g), and potassium carbonate (1.65 g) in DMSO (5.0 mL) was heated with stirring at 130° C. for 20 hours. The resultant reaction mixture was left to be cooled down and was poured into an ice water, and pH of the resultant reaction mixture was adjusted to around 2 with a 10% hydrochloric acid, followed by extracting the reaction mixture with ethyl acetate. From the organic phase, the solvent was distilled off under reduced pressure, and the resultant residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate 100:0 to 50:50) to obtain the subject compound (0.20 g) as a white solid.

reactant | 2-chloro-1-fluoro-4-(trifluoromethyl)benzene | 0.95 g | ClC1=C(C=CC(=C1)C(F)(F)F)F | C7H3ClF4
reactant | (4-hydroxyphenyl)boronic acid | 0.66 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
product | [4-[2-chloro-4-(Trifluoromethyl)Phenoxy]phenyl]boronic Acid | 0.20 g | ClC1=C(OC2=CC=C(C=C2)B(O)O)C=CC(=C1)C(F)(F)F | C13H9BClF3O3
